US09226922B2
(R)-Ethyl 3-oxo-6-(3-(1-phenylethyl)ureido)-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate (29 mg, 0.079 mmol), potassium carbonate (32.6 mg, 0.236 mmol), and 2-chloro-N,N-dimethylacetamide (8.8 μL, 0.087 mmol) were stirred in DMF (1 mL) at room temperature for 24 h. MeOH (0.5 mL) was added and the reaction mixture was stirred at room temperature for 1 h. The insoluble inorganics were removed by filtration and the reaction mixture was purified via mass triggered, reverse phase prep-HPLC. Fractions containing pure product were concentrated in vacuo and the residue dissolved in MeOH. The MeOH solution was passed through a PS—HCO3 cartridge and the filtrate concentrated in vacuo to give (R)—N,N-dimethyl-2-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yloxy)acetamide. MS ESI calc'd. For C19H22N6O3 [M+1]+ 383. found 383. 1H NMR (500 MHz, DMSO-d6) δ 11.94 (s, 1H), 8.94 (s, 1H), 8.58 (s, 1H), 7.77 (br s, 1H), 7.49 (s, 1H), 7.34-7.31 (m, 4H), 7.25-7.20 (m, 1H), 5.04 (s, 2H), 4.89-4.83 (m, 1H), 2.98 (s, 3H), 2.82 (s, 3H), 1.39 (d, J=7.0 Hz, 3H).

reactant | (R)-Ethyl 3-oxo-6-(3-(1-phenylethyl)ureido)-2,3-dihydro-1H-pyrazolo[4,3-c]pyridine-1-carboxylate | 0.079 mmol, 29 mg | O=C1NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(=O)OCC | C18H19N5O4
reactant | potassium carbonate | 0.236 mmol, 32.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.087 mmol, 8.8 μL | ClCC(=O)N(C)C | C4H8ClNO
reactant | MeOH | 0.5 mL | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)—N,N-dimethyl-2-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yloxy)acetamide | CN(C(COC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)=O)C | C19H22N6O3
